US09062070B2
Step B: (3S)-benzyl 4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate
To a solution of (3S)-tert-butyl 4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate (2.87 g, 7.32 mmol) in methylene chloride (20 mL) was added trifluoroacetic acid (20 mL) at rt, and the resulting solution was stirred at rt for 1 h. After removing the volatile solvents, the residue was dissolved in methylene chloride (50 mL). To the above solution was added triethylamine (6.12 mL, 43.9 mmol) and benzyl chloroformate (1.1 mL, 7.3 mmol) dropwise at 0° C. The reaction solution was stirred at 0° C. for 1 h before quenching with saturated sodium bicarbonate solution (200 mL). The mixture was then extracted with methylene chloride (3×100 mL). The combined organic phase was dried over sodium sulphate and concentrated to give the title compound. LC/MS: (M+1)+: 428.18.

reactant | (3S)-tert-butyl 4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 7.32 mmol, 2.87 g | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)C | C20H28FN3O4
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 43.9 mmol, 6.12 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 7.3 mmol, 1.1 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (3S)-benzyl 4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CO)O)C | C23H26FN3O4
